US08710078B2
10 g crude 6-(Piperidin-4-yloxy)-2H-isoquinolin-1-one hydrochloride were dissolved in 25 mL water at 70 C. The solution was cooled to 55° C. and 75 mL acetone were added. The mixture was cooled to room temperature within 3 hours and left standing for two days for crystallization. After cooling (4° C.) for 6 hours the product was isolated via filtration, washed with acetone/water (3:1) and dried in vacuum. 7.9 g (purity 97.1%) of 6-(Piperidin-4-yloxy)-2H-isoquinolin-1-one hydrochloride dihydrate were obtained. Water content (Karl Fischer): 10.52%

reactant | 6-(Piperidin-4-yloxy)-2H-isoquinolin-1-one hydrochloride | 10 g | Cl.N1CCC(CC1)OC=1C=C2C=CNC(C2=CC1)=O
reactant | acetone | 75 mL | CC(=O)C | C3H6O
solvent | water | 25 mL | O | H2O
product | 6-(Piperidin-4-yloxy)-2H-isoquinolin-1-one hydrochloride dihydrate | 7.9 g | O.O.Cl.N1CCC(CC1)OC=1C=C2C=CNC(C2=CC1)=O | InChI=1S/C14H16N2O2.ClH.2H2O/c17-14-13-2-1-12(9-10(13)3-8-16-14)18-11-4-6-15-7-5-11;;;/h1-3,8-9,11,15H,4-7H2,(H,16,17);1H;2*1H2
